US07816371B2
c. (R)-Methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate
(R)-Methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate (0.3 g, 0.001 mol), (S)-2-(4-chlorophenyl)propanoic acid (0.4 g, 0.002 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.8 g, 0.002 mol), N,N-diisopropylethylamine (0.6 g, 0.004 mol) were stirred in N,N-dimethylformamide (3 mL, 0.04 mol) at room temperature over a weekend. The reaction mixture was diluted with CH2Cl2 (100 mL), washed with NaHCO3 (20 mL×3), dried over Na2SO4, purified via flash chromatography (12 g of silica gel, 0-90% EtOAc/Hexane) and then prep. HPLC gave a light yellow oil. MS m/z 441.3 (M+H)+.

reactant | (R)-Methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate | 0.001 mol, 0.3 g | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C(C)C | C15H18N2O3
reactant | (S)-2-(4-chlorophenyl)propanoic acid | 0.002 mol, 0.4 g | ClC1=CC=C(C=C1)[C@@H](C(=O)O)C | C9H9ClO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.002 mol, 0.8 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.004 mol, 0.6 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.04 mol, 3 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-Methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C(C)C)C | C24H25ClN2O4
